US04018771
A 250 ml, three-necked, round bottom flask, was equipped with a condenser, drying tube, mechanical stirrer, gas inlet tube, thermometer and heating mantle. Toluene (100 ml) was introduced and hydrogen chloride gas was bubbled through the solvent until the solution was saturated. Isobutyramide (8.70 g, 0.10 mole) was added and the mixture was heated to 92°. Diketene (8.40 g, 0.10 mole) was added over a 6 minute period and after heating for 15 minutes, a 38.7% yield of N-acetoacetylisobutyramide was obtained.

reactant | Isobutyramide | 0.10 mole, 8.70 g | C(C(C)C)(=O)N | C4H9NO
reactant | Diketene | 0.10 mole, 8.40 g | C=C1CC(=O)O1 | C4H4O2
product | N-acetoacetylisobutyramide | 38.7% yield | C(CC(=O)C)(=O)NC(C(C)C)=O | C8H13NO3
